US06143764
N-(3,5-Dichlorophenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea [237]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (53 mg) was dissolved in toluene (5 ml) with heat, 3,5-dichlorophenyl isocyanate (76 mg) was added, and the admixture was refluxed with heat for 8 minutes. The separated crystals were filtered and then washed with toluene to obtain 75 mg of the title compound (yield: 87%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 53 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 3,5-dichlorophenyl isocyanate | 76 mg | ClC=1C=C(C=C(C1)Cl)N=C=O | C7H3Cl2NO
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3,5-Dichlorophenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea | 75 mg, yield: 87% | ClC=1C=C(C=C(C1)Cl)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C24H19Cl2N3O4
